US03987160
2-Bromo-5-trifluoromethylbenzonitrile (2.5 g.; prepared as described by M. Gordon, I. J. Pachter and J. W. Wilson, Arzneimittel-Forsch., 1963, 13, 802) and a solution of sodium methoxide (prepared from 0.5 g. sodium and 20 ml. anhydrous methanol) were stirred and refluxed together for 4 hours, and allowed to stand at room temperature overnight. The methanol was evaporated and the residue was acidified with 2N hydrochloric acid, with cooling. The mixture was extracted with diethyl ether, and the extract was dried over anhydrous sodium sulphate, filtered and the filtrate was evaporated, and the residue was recrystallised from pentane to give 2-methoxy-5-trifluoromethylbenzonitrile (1.0g.), m.p. 31°-33° C.

reactant | 2-Bromo-5-trifluoromethylbenzonitrile | 2.5 g | BrC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3BrF3N
reactant | sodium methoxide | 20 ml, 0.5 g | C[O-].[Na+]
product | 2-methoxy-5-trifluoromethylbenzonitrile | 1.0g | COC1=C(C#N)C=C(C=C1)C(F)(F)F | C9H6F3NO
